US07273865B2
To a stirred solution of 10.0 g (58.8 mmol) 2-phenyl-pyridin-4-ylamine in 300 ml glacial acetic acid was added 28.9 g (352 mmol) sodium acetate and the mixture was then cooled to 15° C. in an ice-bath and 19.1 g (118 mmol) iodine monochloride added in small portions (reaction slightly exothermic). The reaction mixture was stirred for 48 h at room temperature before being poured onto 500 ml 20% aq. sodium thiosulfate solution. The mixture was then made basic by addition of 5 N aq. sodium hydroxide solution and extracted three times with dichloromethane. The combined organic phases were washed with 20% aq. sodium thiosulfate solution, then dried over sodium sulfate and concentrated in vacuo. Flash chromatography (methanol/dichloromethane 3/97) followed by trituration in ether afforded 9.90 g (57%) 5-iodo-2-phenyl-pyridin-4-ylamine as an off-white solid. ES-MS m/e (%): 297 (M+H+, 100).

reactant | 2-phenyl-pyridin-4-ylamine | 58.8 mmol, 10.0 g | C1(=CC=CC=C1)C1=NC=CC(=C1)N | C11H10N2
reactant | sodium acetate | 352 mmol, 28.9 g | C(C)(=O)[O-].[Na+]
reactant | iodine monochloride | 118 mmol, 19.1 g | ICl | ClI
reactant | sodium thiosulfate | 500 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 5-iodo-2-phenyl-pyridin-4-ylamine | 9.90 g, 57% | IC=1C(=CC(=NC1)C1=CC=CC=C1)N | C11H9IN2
